US08975254B2
(S)—N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)-3-(pyridin-3-yl)-1,2,4-oxadiazole-5-carboxamide
Following the method of Example 34(d), the title compound was prepared from (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile (0.27 g, 1.05 mmol), 3-(pyridin-3-yl)-1,2,4-oxadiazole-5-carboxylic acid (0.2 g, 1.05 mmol), HOBt (0.21 g, 1.57 mmol), DIPEA (0.55 mL, 3.14 mmol) and EDCI (0.3 g, 1.57 mmol) using DMF as solvent to afford 54 mg of the title product. 1H NMR (400 MHz; d6-DMSO): δ 1.23 (d, 3H), 4.37 (m, 2H), 4.50 (m, 1H), 6.96 (d, 1H), 7.65 (m, 1H), 7.88 (d, 1H), 7.92 (m, 2H), 8.04 (m, 1H), 8.38 (m, 1H), 8.83 (dd, 1H), 9.19 (dd, 1H), 9.50 (m, 1H).

reactant | (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile | 1.05 mmol, 0.27 g | N[C@H](CN1N=C(C=C1)C1=CC(=C(C#N)C=C1)Cl)C | C13H13ClN4
reactant | 3-(pyridin-3-yl)-1,2,4-oxadiazole-5-carboxylic acid | 1.05 mmol, 0.2 g | N1=CC(=CC=C1)C1=NOC(=N1)C(=O)O | C8H5N3O3
reactant | HOBt | 1.57 mmol, 0.21 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 3.14 mmol, 0.55 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | EDCI | 1.57 mmol, 0.3 g | CCN=C=NCCCN(C)C | C8H17N3
solvent | DMF | CN(C)C=O | C3H7NO
product | (S)—N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)-3-(pyridin-3-yl)-1,2,4-oxadiazole-5-carboxamide | 54 mg | ClC=1C=C(C=CC1C#N)C1=NN(C=C1)C[C@H](C)NC(=O)C1=NC(=NO1)C=1C=NC=CC1 | C21H16ClN7O2
